US04764519
(b) 2-[3-(5,6,7,8-Tetrahydroquinol-8-yl)propylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine
A mixture of 3-(5,6,7,8-tetrahydroquinol-8-yl)propylamine (4.5 g), 2-chloro-3-nitro-5-(pyrid-3-ylmethyl)pyridine hydrochloride (5 g) and triethylamine (10 ml) was refluxed in ethanol (200 ml) for 7.5 hours. The solvent was removed in vacuo, the residue was dissolved in chloroform and chromatographed on silica in chloroform and later chloroform/methanol 4:1. The fractions containing the product were concentrated to give the title compound as an oil (6.1 g).

reactant | 3-(5,6,7,8-tetrahydroquinol-8-yl)propylamine | 4.5 g | N1=CC=CC=2CCCC(C12)CCCN | C12H18N2
reactant | 2-chloro-3-nitro-5-(pyrid-3-ylmethyl)pyridine hydrochloride | 5 g | Cl.ClC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[3-(5,6,7,8-Tetrahydroquinol-8-yl)propylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine | 6.1 g | N1=CC=CC=2CCCC(C12)CCCNC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1 | C23H25N5O2
